US08445487B2
4-(2-chloro-8-((4-(methylsulfonyl)piperazin-1-yl)methyl)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl)morpholine (250 mg) was treated with para-toluenesulfonic acid via General Procedure D to give 4-(2-chloro-8-((4-(methylsulfonyl)piperazin-1-yl)methyl)-9H-purin-6-yl)morpholine.

reactant | 4-(2-chloro-8-((4-(methylsulfonyl)piperazin-1-yl)methyl)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl)morpholine | 250 mg | ClC1=NC(=C2N=C(N(C2=N1)C1OCCCC1)CN1CCN(CC1)S(=O)(=O)C)N1CCOCC1 | C20H30ClN7O4S
reactant | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 4-(2-chloro-8-((4-(methylsulfonyl)piperazin-1-yl)methyl)-9H-purin-6-yl)morpholine | ClC1=NC(=C2N=C(NC2=N1)CN1CCN(CC1)S(=O)(=O)C)N1CCOCC1 | C15H22ClN7O3S
